US04584293
2-Benzylamino-6,7-dimethoxy-1,2,3,4-tetrahydronaphthalene
The title compound is prepared analogously to Example L by reacting 6,7-dimethoxy-1,2,3,4-tetrahydronaphthalen-2-one with benzylamine. Mp: 237°-238° C.

reactant | 6,7-dimethoxy-1,2,3,4-tetrahydronaphthalen-2-one | COC=1C=C2CCC(CC2=CC1OC)=O | C12H14O3
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
product | 2-Benzylamino-6,7-dimethoxy-1,2,3,4-tetrahydronaphthalene | C(C1=CC=CC=C1)NC1CC2=CC(=C(C=C2CC1)OC)OC | C19H23NO2
